US06180629B2
(B) 2-(1-Oxo-4-phenylphthalazin-2-yl)-N-benzylethanamide
1N NaOH (4.5 mmol) is added to 1-hydroxy-4-phenyl-phthalazine (1 g, 4.5 mmol) in ethanol (20 ml). After 15 minutes, N-benzyl bromoacetamide (1.32 g, 4.5 mmol) is added, the reaction mixture is diluted with ethanol (20 ml) and is stirred overnight. Filtration followed by washing with ethanol (50 ml) and then with water (50 ml) yields the title compound (0.67 g). (R1=benzyl, R2=phenyl, A=benzene, Y1=—CH2—C(O)—NH—, m=0, p=0).

reactant | NaOH | 4.5 mmol, 1N | [OH-].[Na+]
reactant | 1-hydroxy-4-phenyl-phthalazine | 4.5 mmol, 1 g | OC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H10N2O
reactant | N-benzyl bromoacetamide | 4.5 mmol, 1.32 g | C(C1=CC=CC=C1)NC(CBr)=O | C9H10BrNO
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(1-Oxo-4-phenylphthalazin-2-yl)-N-benzylethanamide | 0.67 g | O=C1N(N=C(C2=CC=CC=C12)C1=CC=CC=C1)CC(=O)NCC1=CC=CC=C1 | C23H19N3O2
